US08183380B2
1,1-Dioxo-thiomorpholine-4-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide
The title compound was prepared in accordance with the general method described in example 66 from 1,1-dioxo-thiomorpholine-4-sulfonyl chloride and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=473.7 (M+H+).

reactant | 1,1-dioxo-thiomorpholine-4-sulfonyl chloride | O=S1(CCN(CC1)S(=O)(=O)Cl)=O | C4H8ClNO4S2
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 1,1-Dioxo-thiomorpholine-4-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)N1CCS(CC1)(=O)=O | C22H24N4O4S2
